US07560586B2
Preparation of 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-butyric acid hydrochloride salt
To a solution of 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-hexanoic acid in diethyl ether was added HCl in diethyl ether (1.0 M) to precipitate the amine salt. The suspension was filtered and dried to give the title compound as a white solid (30 mg, 80%). MS m/e 609.2 (M+H)+.

reactant | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-hexanoic acid | ClC1=C(CN(CCCOC=2C=C(C=CC2)C(C(=O)O)CCCC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C37H39ClF3NO3
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1.0 M | C(C)OCC | C4H10O
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-2,2-diphenylethyl-amino]-propoxy}-phenyl)-butyric acid hydrochloride salt | 30 mg, 80% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C(C(=O)O)CC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H35ClF3NO3.ClH/c1-2-30(34(41)42)27-16-9-18-29(22-27)43-21-11-20-40(23-28-17-10-19-32(33(28)36)35(37,38)39)24-31(25-12-5-3-6-13-25)26-14-7-4-8-15-26;/h3-10,12-19,22,30-31H,2,11,20-21,23-24H2,1H3,(H,41,42);1H
